US08138178B2
A THF:H2O (2 mL, 3:1) solution of 2,2-dimethyl-3-((R)-3-((S)-1-(4-(1-methyl-6-oxo-1,6-dihydropyridin-3-yl)phenyl)ethyl)-2-oxo-6-phenyl-1,3-oxazinan-6-yl)propanenitrile (55 mg, 0.12 mmol), acetamide (177 mg, 3 mmol) and PdCl2 (21 mg, 0.12 mmol) was stirred overnight. The solvent was removed and the crude material redissolved in CH3CN. The crude product was purified via prep HPLC to afford 2,2-dimethyl-3-((R)-3-((S)-1-(4-(1-methyl-6-oxo-1,6-dihydropyridin-3-yl)phenyl)ethyl)-2-oxo-6-phenyl-1,3-oxazinan-6-yl)propanamide (28 mg). LC-MS Method 1 tR=1.25 min, m/z=488 (M+1); 1H NMR (CDCl3) 7.55 (dd, 1H, J=9 Hz, 3 Hz), 7.42 (d, 1H, J=3 Hz), 7.32 (d, 1H, J=4 Hz), 7.29 (m, 4H), 7.14 (d, 2H, 8 Hz), 7.00 (d, 2H, J=8 Hz), 6.79 (d, 1H, J=9 Hz), 5.66 (q, 1H, J=8 Hz), 3.62 (s, 3H), 2.95-2.89 (m, 1H), 2.5 (d, 1H, J=15 Hz), 2.26-2.1 (m, 3H), 2.2 (d, 1H, J=15 Hz), 2.5 (d, 1H, J=15 Hz), 2.26-2.10 (m, 3H), 2.2 (d, 1H, J=15 Hz), 1.53 (d, 3H, J=7 Hz), 1.22 (s, 3H), 1.20 (s, 3H)

reactant | THF | C1CCOC1 | C4H8O
reactant | 2,2-dimethyl-3-((R)-3-((S)-1-(4-(1-methyl-6-oxo-1,6-dihydropyridin-3-yl)phenyl)ethyl)-2-oxo-6-phenyl-1,3-oxazinan-6-yl)propanenitrile | 0.12 mmol, 55 mg | CC(C#N)(C[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)C1=CN(C(C=C1)=O)C)C1=CC=CC=C1)C | C29H31N3O3
reactant | acetamide | 3 mmol, 177 mg | C(C)(=O)N | C2H5NO
catalyst | PdCl2 | 0.12 mmol, 21 mg | Cl[Pd]Cl
solvent | H2O | 2 mL | O | H2O
product | 2,2-dimethyl-3-((R)-3-((S)-1-(4-(1-methyl-6-oxo-1,6-dihydropyridin-3-yl)phenyl)ethyl)-2-oxo-6-phenyl-1,3-oxazinan-6-yl)propanamide | 28 mg | CC(C(=O)N)(C[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)C1=CN(C(C=C1)=O)C)C1=CC=CC=C1)C | C29H33N3O4
